US07265148B2
Synthesis of N-{[1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indol-2-yl]carbonyl}-L-leucine
The title compound was prepared from 1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indole-2-carboxylic acid and L-leucine ethyl ester hydrochloride followed the procedure of Example 2 Step 4 as an off-white solid: 1H NMR (DMSO-d6) δ 0.77 (d, J=6.3 Hz, 3 H), 0.78 (d, J=6.3 Hz, 3 H), 1.25-1.40 (m, 1 H), 1.40-1.50 (m, 1 H), 1.90 (s, 6 H), 4.30-4.40 (m, 1H), 5.56 (d, J=16.0 Hz, 1 H), 5.63 (d, J=16.0 Hz, 1 H), 5.76 (s, 2 H), 7.05-7.65 (m, 13 H), 8.95 (d, J=13.3 Hz, 1 H), 12.35 (br s, 1 H); MS (ESI) m/z 534 (MH−); MS (ESI) m/z 532 ([M-H]−); HRMS calcd for C34H36N3O3: 534.2757; found (ESI+): 534.2745; Anal. calcd for C34H35N3O3.0.65 H2O: C, 74.88; H, 6.71; N, 7.70. Found: C, 74.55; H, 6.31; N, 7.68.

reactant | 1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C(=CC=C1C)C)C1=CC=CC=C1)C(=O)O | C28H24N2O2
reactant | L-leucine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CC(C)C)=O
solvent | H2O | O | H2O
product | N-{[1-benzyl-5-(2,5-dimethyl-1H-pyrrol-1-yl)-3-phenyl-1H-indol-2-yl]carbonyl}-L-leucine | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)N1C(=CC=C1C)C)C1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C34H35N3O3
